US04117158
p-Hexadecylaminobenzonitrile
p-Aminobenzonitrile (11.8 g., 0.1 mole) and 1-bromohexadecane (15.25 g., 0.05 mole) are dissolved in hexamethylphosphoramide (200 ml.) and heated under nitrogen in an oil-bath maintained at 120° for 22 hours. The reaction mixture is cooled to room temperature and water (50 ml.) is added gradually. The mixture is then chilled in an ice-bath. The precipitate is filtered, washed thoroughly with water and dried. It is then washed repeatedly with hexane and dried; 14.2 g. pale brownish yellow granular solid is obtained as homogeneous product. Crystallization from ether-hexane affords pale yellow prisms, melting point 63°-64° C.

reactant | p-Aminobenzonitrile | 0.1 mole, 11.8 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 1-bromohexadecane | 0.05 mole, 15.25 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | water | 50 ml | O | H2O
solvent | hexamethylphosphoramide | 200 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | p-Hexadecylaminobenzonitrile | C(CCCCCCCCCCCCCCC)NC1=CC=C(C#N)C=C1 | C23H38N2
